US05837687
(1) PhCH2O(CH2)2NCO
In 80 ml of AcOEt was dissolved 8.70 g of 3-benzyloxypropionic acid, and 6.80 ml of Et3N and 5.10 ml of ethyl chlorocarbonate were added to the solution at -10° C., and the mixture was stirred for 15 minutes. Thereafter, 16 ml of an aqueous solution containing 4.78 g of sodium azide was added to the mixture, and the resulting mixture was stirred at -5° to 0° C. for 30 minutes. The reaction mixture was washed with water and dried over anhydrous magnesium sulfate. Into a flask in which 15 ml of AcOEt had been refluxed under heating, the AcOEt solution containing the acid azide was added dropwise over 20 minutes, and the mixture was further refluxed under heating for 10 minutes. After the solvent was removed, the residue was distilled under reduced pressure (97° C./4 mmHg) to obtain the title compound.

reactant | 3-benzyloxypropionic acid | 8.70 g | C(C1=CC=CC=C1)OCCC(=O)O | C10H12O3
reactant | Et3N | 6.80 ml | CCN(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 5.10 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | sodium azide | 4.78 g | [N-]=[N+]=[N-].[Na+]
solvent | AcOEt | 80 ml | CCOC(=O)C | C4H8O2
product | PhCH2O(CH2)2NCO | C1(=CC=CC=C1)COCCN=C=O | C10H11NO2
